Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Bactrim / Azithromycin / Codeine / Sulfa (Sulfonamide 
Antibiotics)
 
Attending: ___.
 
Chief Complaint:
RLQ pain, skin erosion behind R ear
 
Major Surgical or Invasive Procedure:
___: removal of distal catheter & scalp revision
___: ___ attempt for drainage of abdominal fluid 

 
History of Present Illness:
___ is a ___ with history of DM on insulin pump, on ASA 
325mg daily s/p R Metronic Strata VPS placement ___ ___ ___ who presents with 3 days of new onset ___ RLQ 
pain when she moves, coughs, laughs. At rest it is a dull ___ 
pain. She takes Advil qHS for the pain to help her sleep. She 
reports she was recently seen in ED on 2 days ago and had temp 
of 101.0. No other known fevers. WBC 8.5 now. CT Abd/Pelvis 
concerning for phlegmonous collection in the RLQ partially along 
catheter tubing and gallbladder fossa,
appendicitis cannot be excluded per rads. Patient reports her 
gait was initially improved after shunt was inserted and has 
progressively gotten more unsteady over the last few weeks. Her 
shunt was adjusted from 1.5 to 1.0 on ___ in clinic. CT head 
shows slightly increased size in ventricles. 

Patient currently denies pain behind her right ear but reports 
it can be "excruciating" at times. Pain and skin breakdown is 
where her glasses rest on her head. She denies nausea, vomiting, 
diarrhea, seizures, visual changes, weakness, numbness, 
tingling, incontinence of bowel or bladder. 
 
Past Medical History:
-stroke in the corona radiata extending into the anterior limb 
of the internal capsule on the right on ___. At that time, 
pt presented with dysarthria, hiccups, dysphagia, left facial 
droop and typing errors with the left hand. She does not think 
that she had any numbness or weakness at that time. 
-insulin dependent diabetes mellitus diagnosed ___, 
complications include diabetic retinopathy, on insulin pump 
-macular degeneration 
-HTN
-Hyperlipidemia
-depression
-iron deficiency anemia
-osteopenia
-normal pressure hydrocephalus s/p Right Metronic Strata VPS
placement on ___
-Allergic rhinitis
-Chest pain
-deviated nasal septum 
-hyponatremia
-obstructive sleep apnea
-R shoulder pain
-vitiligo 
 
Social History:
___
Family History:
Father and paternal aunt DM.
No known history of neurologic disease.

 
Physical Exam:
==============
ON ADMISSION:
==============
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: PERRL        EOMs: intact
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2mm
bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch bilaterally.

Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin

VP Shunt: Easily compressible, recoils briskly. 

Skin: 
There is a pinhole opening behind the right ear draining clear
drainage. Catheter tracking behind right ear is superficial 
under
the skin, redness noted 
R crani: well healed
R clavicle: well healed
R abdomen: well healed

 
Pertinent Results:
Please refer to OMR for pertinent lab and imaging results. 
 
Brief Hospital Course:
Patient presented to ED on ___ with 3 days of RLQ pain. CT 
abdomen pelvis concerning for phlemonous collection at distal 
end of catheter. NCHCT showed slightly increased size in 
ventricles. Her shunt setting was confirmed at 1.0 in the ED. 
Shunt was tapped for CSF studies. ACS was not concerned about 
abdominal collection/ possible appedicitis and the patient was 
admitted to the neuro step down unit on the neurosurgery 
service. 

#Wound erosion behind R ear:
On assessment in ED there was a pinhole opening behind her right 
ear draining clear fluid concerning for CSF. The underlying 
catheter appeared superficial however there was no exposed 
hardware. The area was cleansed with wound cleanser and covered 
with bacitracin and DSD. The patient was consented and taken to 
the OR on ___ for VP shunt revision on ___ ___. 
Please see operative report for full details. Post-auricular 
incision was revised and distal catheter removed and sent for 
culture (see ID).

#Phlegmon abdominal collection
Distal VP shunt catheter was removed in the OR and tied off in 
the abdomen. Fluid from distal catheter tip sent for culture, 
but further fluid was not able to be aspirated from collection. 
She was taken to ___ for further drainage attempt on ___, but 
no fluid was able to be aspirated. CT showed decrease in fluid 
collection with only trace fluid. 

#ID:
The patient was afebrile on admission. WBC within normal limits. 
The shunt reservoir was tapped for CSF in the ED. ID was 
consulted and the patient was started on empiric vancomycin and 
zosyn. The zosyn was changed to ceftazidime per ID recs. CSF 
gram stain from tap was negative and culture was no growth. 
Peritoneal fluid grew 2+ GPCs on gram stain, culture grew 
coagulase negative staphylococcus. CRP elevated at 245. 
Ceftazidime was discontinued on ___ and she was continued on 
Vancomycin, with plans for 2 week course. PICC was placed on 
___. 

#Type I diabetes:
Patient presented to ED with home insulin pump attached. She 
self d/c'd the pump at 4am the following morning. She was made 
NPO for the OR and ___ was consulted. She was started on 
Lantus 10 units and Humalog sliding scale q4h. Her sugars were 
monitored closely q1h. ___ was consulted and closely 
monitored and adjusted insulin postop. She was restarted on her 
home insulin pump on ___.

#CV: 
Her aspirin 325mg was held on admission for OR and may be 
resumed on ___. 
 
Medications on Admission:
 Actonel 35 mg tablet
1 tablet(s) by mouth once a week take on an empty stomach with a
full glass of water, stay upright for 1 hour after (NO
SUBSTITUTION PLEASE)
   
 Benicar 20 mg tablet
1 tablet(s) by mouth daily 'no substitution'
   
 Calcium Citrate + D 315 mg-200 unit tablet
1 tablet(s) by mouth twice a day
   
 Fish Oil Concentrate 1,000 mg capsule
(dose uncertain)
   
 Novolog 100 unit/mL subcutaneous solution
 via pump
   
 aspirin 325 mg Tab
1 Tablet(s) by mouth once a day
   
 bupropion HCl 75 mg tablet
2 tablet(s) by mouth once a day
   
 cilostazol 100 mg tablet
1 tablet(s) by mouth twice a day
  
 fluoxetine 20 mg Cap
one Capsule(s) by mouth every day, once a day
   
 fluoxetine 40 mg Cap
1 Capsule(s) by mouth once a day
   
 multivitamin capsule
1 capsule(s) by mouth once a day
   
 omeprazole 20 mg capsule,delayed release
1 capsule(s) by mouth once a day
   
 simvastatin 20 mg tablet
1 tablet(s) by mouth at bedtime
  
 zinc 50 mg tablet
1 tablet(s) by mouth once a day

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush  
3.  Vancomycin 750 mg IV Q 12H 
End ___ 
RX *vancomycin 750 mg 1 vial iv twice a day Disp #*28 Vial 
Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Benicar (olmesartan) 20 mg oral DAILY  
6.  BuPROPion 150 mg PO DAILY  
7.  FLUoxetine 20 mg PO DAILY  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)

Basal Rates:
  Midnight - 8 am:  .5 Units/Hr
  8am - 8pm:  .8 Units/Hr
  8pm - MN:  .5 Units/Hr
Meal Bolus Rates:
  Breakfast = 1:8
  Lunch = 1:8
  Dinner = 1:8
  Snacks = 1:8
High Bolus:
  Correction Factor = 1:25
  Correct To ___ mg/dL

 
10.  Omeprazole 20 mg PO DAILY  
11.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Abdominal abscess
Skin breakdown

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Ventriculoperitoneal Shunt

Surgery
•You underwent surgery to remove the distal portion of your VP 
shunt due to infection. The remainder of the shunt remains in 
place but has been tied off. You also had a revision of your 
scalp wound. Your incisions should be kept dry until sutures are 
removed.
•It is best to keep your incision open to air but it is ok to 
cover it when outside. 
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•Headache or pain along your incision. 
•Some neck tenderness along the shunt tubing.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason
 
Followup Instructions:
___